* Title: Simple circuit
.options savecurrents

*Voltage source
vs 1 0 sin(0 1 1k) ac 1

*Capacitor voltage source
c1 6 8 1.01708754235u

*Resistor
r1 1 2 1.03301019518k
r2 3 2 2.0748608676k
r3 2 5 3.05514376545k
r4 5 0 4.15047871791k
r5 5 6 3.02449899207k
r6 0 7 2.08776908673k
vr6 7 9 dc 0
r7 9 8 1.03338176153k

*VCCS
g1 6 3 2 5 7.32769926486m

*CCVS
h1 5 8 vr6 8.37701206687k


.ic v(6) = 5.559054e+00
.ic v(8) = -2.84482e+00

.control
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0
set units=degrees

op

echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 0.01m 20m
hardcopy forced.ps v(1) v(6)
echo forced_FIG

echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"
ac dec 100 0.1 1MEG
hardcopy acm.ps vdb(6)
echo acm_FIG
hardcopy acp.ps vp(6)
echo acp_FIG
hardcopy ac.ps v(1) v(6)
echo ac_FIG

quit
.endc

.end

